US04081452
In the manner given in Example 2, a solution of hydrazine hydrate in ethanol is reated at 65° C. with 8-bromo-1-[(phthalimidooxy)methyl]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine to give 1-(aminooxy)methyl]-8-bromo-6-(2pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | hydrazine hydrate | O.NN
reactant | 8-bromo-1-[(phthalimidooxy)methyl]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CON3C(C=2C(C3=O)=CC=CC2)=O)C2=NC=CC=C2)C1 | C24H15BrN6O3
solvent | ethanol | C(C)O | C2H6O
product | 8-bromo-6-(2pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=NC=CC=C3)C1 | C15H10BrN5
